US09290514B2
Step 3. 8-Bromo-6-fluoro-5-nitro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-3-ol
2-Amino-6-bromo-4-fluoro-3-nitrophenol (500 mg, 1.9 mmol) and potassium carbonate (780 mg, 5.7 mmol) were stirred in acetone (8 mL) for 5 minutes and 2-bromo-1-pyridin-3-ylethanone hydrobromide (530 mg, 1.9 mmol) was added as a solid over 5 minutes. The mixture was stirred at rt for 5 minutes and poured into water. The mixture was extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate, filtered and evaporated. Purification on silica gel using ethyl acetate in hexanes gave the desired compound, 0.69 g, 99%. LCMS calculated for C13H10BrFN3O4 (M+H)+: m/z=370.1, 372.1. found: 370.0, 372.0.

reactant | 2-Amino-6-bromo-4-fluoro-3-nitrophenol | 1.9 mmol, 500 mg | NC1=C(C(=CC(=C1[N+](=O)[O-])F)Br)O | C6H4BrFN2O3
reactant | potassium carbonate | 5.7 mmol, 780 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-pyridin-3-ylethanone hydrobromide | 1.9 mmol, 530 mg | Br.BrCC(=O)C=1C=NC=CC1
reactant | water | O | H2O
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 8-Bromo-6-fluoro-5-nitro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-3-ol | BrC1=CC(=C(C=2NC(COC21)(O)C=2C=NC=CC2)[N+](=O)[O-])F | C13H9BrFN3O4
